### ISSUE TITLE
RFC: Option.get API

### ISSUE THREAD

**Issue by nomeata** [leanprover/lean4#7160]
When experimenting with `partial_fixpoint` functions, I noticed that we did not have all the theorems about `Option.get` (and `Option.isSome`) that we could have. I was hoping for something like

```
theorem Option.of_isSome_bind_left {o : Option α} {f : α → Option β} (h : (o >>= f).isSome) :
    o.isSome := by
  cases o <;> simp_all

theorem Option.of_isSome_bind_right {o : Option α} {f : α → Option β} (h : (o >>= f).isSome) :
    (f (o.get (Option.of_isSome_bind_left h))).isSome := by
  cases o <;> simp [h] at h |-

@[simp] theorem Option.get_bind (o : Option α) (f : α → Option β) (h : (o >>= f).isSome) :
    (o >>= f).get h = (f (o.get (Option.of_isSome_bind_left h))).get (Option.of_isSome_bind_right h) := by
  cases o <;> simp at h |-
```

The use-case is to automate the conversion of a possibly partial function returning `Option` to a pure one, once one has proved it to be total.

I could envision that a set of such lemmas could exist for every higher-order monadic function, including things like `List.mapM`, turning them into their non-monadic counterparts:

```
theorem Option.of_isSome_mapM {xs : List α} {f : α → Option β} (h : (xs.mapM f).isSome) {x : α} (hx : x ∈ xs) :
  (f x).isSome := by
  rw [← List.mapM'_eq_mapM] at h
  induction hx with 
  | head xs =>
    apply Option.of_isSome_bind_left h
  | tail x xs ih =>
    apply ih
    apply Option.of_isSome_bind_left
    apply Option.of_isSome_bind_right h

theorem Option.of_isSome_mapM_cons {x : α} {xs : List α} {f : α → Option β} (h : ((x::xs).mapM f).isSome) :
  (xs.mapM f).isSome := by
  simp only [List.mapM_cons, pure_def, bind_eq_bind] at *
  apply Option.of_isSome_bind_left
  apply Option.of_isSome_bind_right h


theorem Option.get_mapM {xs : List α} {f : α → Option β} (h : (xs.mapM f).isSome) :
  (xs.mapM f).get h = xs.attach.map (fun ⟨x, hx⟩ => (f x).get (Option.of_isSome_mapM h hx)) := by
  induction xs with
  | nil =>
    simp
  | cons x xs ih =>
    simp -- Why does simp not apply Option.get_bind?
    apply (Option.get_bind _ _ _).trans
    apply (Option.get_bind _ _ _).trans
    simp [ih (Option.of_isSome_mapM_cons ‹_›)]
```
(With the hope that the `attach` can eventually also be simplified.)

Not a high priority now, but I thought it’s worth noting this down.

For reasons I don’t fully understand `theorem Option.get_bind` is not a good simp lemma, so there maybe more work needed to make this API as smooth as it could be.

### Community Feedback

This came up while discussing the McCarthy 91 function on zulip:
https://leanprover.zulipchat.com/#narrow/channel/270676-lean4/topic/McCarthy.2091.20function.20using.20partial_fixpoint

### Impact

Add :+1: to [issues you consider important](https://github.com/leanprover/lean4/issues?q=is%3Aissue+is%3Aopen+sort%3Areactions-%2B1-desc). If others benefit from the changes in this proposal being added, please ask them to add :+1: to it.
